US20010018525A1
3,5-Bis-(3-methylphenyl)-4-methoxymethoxybenzoic acid ethyl ester was prepared as a white solid (4.2 g, 30%) in a similar manner to Step 1 of Example 143 from a 2:1 mixture of 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester and 3,5-dibromo4-methoxymethoxybenzoic acid ethyl ester. 1H NMR (CDCl3) δ1.17 (t, J=8.18 Hz, 3H); 2.4 (s, 6H); 2.66 (s, 3H); 4.36 (quartet, J=8.18 Hz, 2H); 4.40 (s, 2H); 7.11-7.20 (m, 2H); 7.20-7.40 (m, 6H); 8.00 (s, 2H).

reactant | 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)I)OCOC)Br)=O | C11H12BrIO4
reactant | 3,5-dibromo4-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)Br)OCOC)Br)=O | C11H12Br2O4
product | 3,5-Bis-(3-methylphenyl)-4-methoxymethoxybenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C)OCOC)C1=CC(=CC=C1)C)=O | C25H26O4
